data/mechanisms/records/IMS4-EQ4.40.json
{"mechanism_id": "IMS4-EQ4.40", "species": [{"species_id": "chloropentane_n_ionized", "mapped_smiles": "[Cl+:1][CH2:2][CH2:3][CH:4]([1H:7])[CH2:5][CH3:6]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_after_rH", "mapped_smiles": "[Cl+:1]([1H:7])[CH2:2][CH2:3][CH:4][CH2:5][CH3:6]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "hydrogen_chloride_neutral", "mapped_smiles": "[Cl:1][1H:7]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "ethylcyclopropane_radical_cation", "mapped_smiles": "[CH2+:2][CH2:3][CH:4][CH2:5][CH3:6]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}], "states": [{"state_id": "state_precursor", "species_ids": ["chloropentane_n_ionized"]}, {"state_id": "state_intermediate", "species_ids": ["distonic_after_rH"]}, {"state_id": "state_products", "species_ids": ["hydrogen_chloride_neutral", "ethylcyclopropane_radical_cation"]}], "steps": [{"step_id": "step_rH", "from_state": "state_precursor", "to_state": "state_intermediate", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [4, 7]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 7]}, "target": {"type": "bond", "atom_maps": [1, 7]}, "electron_count": 1}, {"source": {"type": "atom", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 7]}, "electron_count": 1}], "reversible": false}, {"step_id": "step_ind", "from_state": "state_intermediate", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 2}], "reversible": false}], "evidence": [{"evidence_id": "ev_step_rH", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH", "support_type": "textbook_proposed", "locator": {"page": 77, "equation": "4.40", "section": "4.9 Radical site rearrangements"}, "confidence": 0.85, "curator_note": "Radical-site hydrogen rearrangement in n-ionized 1-chloropentane: the Cl-centred odd electron abstracts a hydrogen three carbons away (a five-membered, i.e. not six-membered, transition state - the book stresses this), giving H-Cl+ and a secondary C-radical (the middle structure). Book draws 3 arcs; moves <1,2,3> are all drawn (small hook returning one C-H electron to the carbon, large S-sweep carrying the other C-H electron to the forming H-Cl bond, and the check-mark fishhook feeding the Cl radical electron into that H-Cl bond) - a fully depicted three-fishhook H-atom transfer, no implicit hook. The migrating hydrogen (map 7) is written as [1H] - ordinary protium with its isotope pinned, NOT deuterium - solely so RDKit's default parser retains it as a mapped atom (plain mapped [H] is stripped by removeHs), letting the C-H and H-Cl bond changes be bookkept."}, {"evidence_id": "ev_step_ind", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_ind", "support_type": "textbook_proposed", "locator": {"page": 77, "equation": "4.40", "section": "4.9 Radical site rearrangements"}, "confidence": 0.8, "curator_note": "Charge-site (inductive) cleavage: the Cl+ charge site draws the C-Cl bonding pair onto chlorine, expelling neutral HCl and leaving the charge on the carbon skeleton - McLafferty's 'charge migration' path. Book draws 1 arc; move <1> is drawn, a single full (two-barbed) curved arrow from the C-Cl bond onto Cl (electron_count 2). The book draws the ionic product as ethylcyclopropane radical cation (m/z 70); a cyclopropane radical cation has no valence-valid two-electron Lewis structure (the three-membered ring cannot stay intact while carrying a localized charge + radical), so it is encoded here as the equivalent ring-opened 1,3-distonic radical cation - primary carbocation at the former C-Cl carbon (map 2) plus the secondary C-radical (map 4) - which the single inductive arrow produces exactly (same formula C5H10, m/z 70). Ring closure of that 1,3 radical/cation pair to the drawn cyclopropane is a subsequent radical-cation combination not separately drawn."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "electron_energy_ev": 70.0, "precursor_mz": 106.0549, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_70", "species_id": "ethylcyclopropane_radical_cation", "step_id": "step_ind", "observed_mz": 70.0777, "relative_intensity": 1.0, "status": "proposed", "confidence": 0.85}], "curation": {"extraction_method": "vision_multiagent", "review_status": "unreviewed"}}
